US06211170B1
1-(tert-butyldimethylsilyl)-4(R)-(iodomethyl)-azetidin-2-one (202 mg, 0.62 mmol) was heated at reflux in piperidine (5 mL) for 2 h. The solution was concentrated, dissolved in CH2Cl2 and washed with saturated NaHCO3 and brine, dried (MgSO4) and concentrated. The residue was purified by flash chromatography (SiO2, EtOAc) to give 1-(tert-butyldimethylsilyl)-4(R)-(piperidin-1-ylmethyl)azetidin-2-one (116 mg, 71% yield). 1H NMR (400 MHz, CDCl3) δ 3.70-3.63 (m, 1H), 3.16 (dd, J=15.3, 5.4 Hz, 1H), 2.70-2.61 (m, 2H), 2.45-2.26 (m, 5H), 1.60-1.53 (m, 4H), 1.46-1.38 (m, 2H), 0.96 (s, 9H), 0.24 (s, 6H).

reactant | 1-(tert-butyldimethylsilyl)-4(R)-(iodomethyl)-azetidin-2-one | 0.62 mmol, 202 mg | [Si](C)(C)(C(C)(C)C)N1C(C[C@@H]1CI)=O | C10H20INOSi
reactant | piperidine | 5 mL | N1CCCCC1 | C5H11N
product | 1-(tert-butyldimethylsilyl)-4(R)-(piperidin-1-ylmethyl)azetidin-2-one | 116 mg, 71% yield | [Si](C)(C)(C(C)(C)C)N1C(C[C@@H]1CN1CCCCC1)=O | C15H30N2OSi
